US08211908B2
To 0.16 g of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride, chloroform and a saturated aqueous sodium hydrogen carbonate solution were added, the organic layer was separated and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the residue, 2.6 mL of methanol and 0.15 mL of a 28% sodium methoxide/methanol solution were added, and the mixture was heated under reflux while stirring for 2 hours. The reaction mixture was cooled to room temperature, thereto were added chloroform and a saturated aqueous sodium hydrogen carbonate solution, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant residue, 1.4 mL of isopropyl alcohol and 93 μL of concentrated hydrochloric acid were added, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was cooled with ice, and the solid was filtered off to obtain 0.15 g of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride as a white solid.

reactant | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride | 0.16 g | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC(=C(C=C21)F)C)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride | 0.15 g | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC(=C(C=C21)OC)C)=O | InChI=1S/C25H31N5O4.ClH/c1-17-22(32-2)14-21-20(28-17)3-4-25(31)30(21)10-9-29-7-5-18(6-8-29)26-15-19-13-23-24(16-27-19)34-12-11-33-23;/h3-4,13-14,16,18,26H,5-12,15H2,1-2H3;1H
